US06803476B2
15.246 g (0.10 mol) sodium chlorodifluoroacetate, is dissolved to 100 mL Et2O and cooled to −70° C. 19.7 mL (0.10 mol, 19.872 g) chlorotriethoxysilane in Et2O (50 mL) was added dropwise to reaction solution. The solution was stirred for over night allowing it to warm up to room temperature. NaCl is removed by filtration and solution evaporated to dryness to result clear colourless liquid, chlorodifluoroacetic acid, triethoxysilyl ester.

reactant | sodium chlorodifluoroacetate | 0.10 mol, 15.246 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | chlorotriethoxysilane | 0.10 mol, 19.7 mL, 19.872 g | Cl[Si](OCC)(OCC)OCC | C6H15ClO3Si
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | chlorodifluoroacetic acid, triethoxysilyl ester | ClC(C(=O)O[Si](OCC)(OCC)OCC)(F)F | C8H15ClF2O5Si
